US04490265
The boramid compound, 1-hydroxy-4,6-dicresyl-5-dodecyl-5-aza-1-bora-2,8-dioxacyclooctane is prepared by adding 61.7 grams of dodecylamine, 89.3 grams of para methylstyrene oxide and 250 ml of toluene to a single necked one liter round-bottomed flask. The toluene acts as a solvent and as an azeotrope for water produced during the reaction. The mixture thus formed is heated until it begins to reflux. Next, the mantle heat is adjusted to give a moderate reflux rate. The reaction mixture is refluxed for 24 hours. The reaction mixture is cooled to room temperature and 21 grams of boric acid are added to the flask. Next, the flask is equipped with a Dean-Stark trap topped with a water-cooled condenser and the reaction mixture is refluxed until water stops collecting in the trap (12 ml). Toluene is distilled from the reaction product. The reaction produces 160 grams of product.

reactant | dodecylamine | 61.7 grams | C(CCCCCCCCCCC)N | C12H27N
reactant | para methylstyrene oxide | 89.3 grams | CC1=CC=C(C2CO2)C=C1 | C9H10O
reactant | water | O | H2O
reactant | boric acid | 21 grams | B(O)(O)O | BH3O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1-hydroxy-4,6-dicresyl-5-dodecyl-5-aza-1-bora-2,8-dioxacyclooctane | OB1OCC(N(C(CO1)C1=CC=C(C=C1)C)CCCCCCCCCCCC)C1=CC=C(C=C1)C | C30H46BNO3
